US07807676B2
4-Methoxy-7-bromo-6-azaindole (120 mg) was added in portions to a melted of 4-methyl-1,2,3-triazole (219 mg) under argon at 110-120° C. The mixture was heated to 130° C. and was stirred at 130° C. for 17 hours. The reaction mixture was cooled to room temperature and the resulting residue was purified by column chromatography using EtOAc/Hexane (6:4) mixture as eluent which afforded 4-methoxy-7-(4-methyl-1H-1,2,3-triazol-1-yl)-1H-pyrrolo[2,3-c]pyridine as a tan solid. 1H NMR (400 MHz, DMSO-D6): δ 2.38 (s, 3H), 4.01 (s, 3H), 6.66 (dd, 1H, J=2.9, 2.6), 7.53 (dd, 1H, J=2.9, 2.8), 7.70 (s, 1H), 8.62 (s, 1H), 11.78 (bs, 1H). MS: 230.3 (M++1).

reactant | 4-Methoxy-7-bromo-6-azaindole | 120 mg | COC1=C2C=CNC2=C(N=C1)Br | C8H7BrN2O
reactant | 4-methyl-1,2,3-triazole | 219 mg | CC=1N=NNC1 | C3H5N3
product | 4-methoxy-7-(4-methyl-1H-1,2,3-triazol-1-yl)-1H-pyrrolo[2,3-c]pyridine | COC1=C2C(=C(N=C1)N1N=NC(=C1)C)NC=C2 | C11H11N5O
